US06720427B2
A solution of 2-aminothiazole (7.1 g, 71 mmol) in THF (360mL) cooled to −78° C. was treated dropwise with n-BuLi (56.18 mL, 142 mmol) while maintaining an internal temperature less than or about equal to −60° C. After addition was completed, the solution was treated dropwise with chlorotrimethylsilane (18 mL, 142 mmol). The reaction solution was warmed to −10° C., then was cooled back to −78° C. n-Butyllithium (28.4 mL, 71 mmol) was added dropwise and after 10 minutes, cyclobutanone (5.33 mL, 71 mmol) was added dropwise. The solution was stirred for 1 hour at −78° C., was quenched with saturated ammonium chloride solution, and was warmed to 23° C. The reaction mixture was extracted with ethyl acetate (300 mL). The organic layer was washed with brine, was dried (MgSO4), was filtered, and solvent was removed in vacuo. The resulting residue was purified by silica gel chromatography (15:1→7:1 CHCl3—MeOH) to afford 7.24 g of 1-(2-amino-thiazol-5-yl)cyclobutanol. 1HNMR (400 MHz, DMSO-D6) δ 6.78 (s, 1H), 6.70 (s,2H), 5.58 (s,1H), 22 (m,4H), 1.69 (m, 1H), 1.50 (m,1H).

reactant | 2-aminothiazole | 71 mmol, 7.1 g | NC=1SC=CN1 | C3H4N2S
reactant | n-BuLi | 142 mmol, 56.18 mL | [Li]CCCC
reactant | chlorotrimethylsilane | 142 mmol, 18 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | n-Butyllithium | 71 mmol, 28.4 mL | C(CCC)[Li]
reactant | cyclobutanone | 71 mmol, 5.33 mL | C1(CCC1)=O | C4H6O
solvent | THF | 360mL | C1CCOC1 | C4H8O
product | 1-(2-amino-thiazol-5-yl)cyclobutanol | 7.24 g | NC=1SC(=CN1)C1(CCC1)O | C7H10N2OS
